US08426437B2
83 μL (0.6 mmol) of triethylamine and 22 μL (0.24 mmol) of dimethylsulfate are added to a solution of 55 mg (0.12 mmol) of 4-oxo-8-(piperidin-4-ylsulfamoyl)-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-cyclopentyl carboxylate dissolved in 5 mL of anhydrous dimethylformamide. The solution is stirred at room temperature for 3 hours before adding 2 mL of ammonia. After stirring for a further 10 minutes, water is added and the product is extracted with ethyl acetate. The organic phases are dried over magnesium sulfate, filtered and evaporated. The residue is purified by chromatography on silica (eluent chloroform/methanol/ammonia 300/24/4) to give 22 mg (39%) of 8-(1-methyl-piperidin-4-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-cyclopentyl carboxylate in the form of a white solid.

reactant | triethylamine | 0.6 mmol, 83 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfate | 0.24 mmol, 22 μL | COS(=O)(=O)OC | C2H6O4S
reactant | 4-oxo-8-(piperidin-4-ylsulfamoyl)-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-cyclopentyl carboxylate | 0.12 mmol, 55 mg | O=C1NC=2C=CC(=CC2C2=C1NC=C2)S(NC2CCNCC2)(=O)=O.C1(CCCC1)C(=O)[O-]
reactant | ammonia | 2 mL | N | H3N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-(1-methyl-piperidin-4-ylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-cyclopentyl carboxylate | 22 mg, 39% | CN1CCC(CC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C1(CCCC1)C(=O)[O-] | InChI=1S/C17H20N4O3S.C6H10O2/c1-21-8-5-11(6-9-21)20-25(23,24)12-2-3-15-14(10-12)13-4-7-18-16(13)17(22)19-15;7-6(8)5-3-1-2-4-5/h2-4,7,10-11,18,20H,5-6,8-9H2,1H3,(H,19,22);5H,1-4H2,(H,7,8)/p-1
